.title LPF 2nd-order MFB — schematic check
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.include /foss/designs/sscs-chipathon-2026/filters/lpf.spice

VVDD VDD GND dc 3.3
VVb1 Vb1 GND dc 1.4
VVb2 Vb2 GND dc 1.6
VVb3 Vb3 GND dc 0.8
VVb4 Vb4 GND dc 2.3
IB Ibias25u GND dc 25u

Vip in_p GND dc 1.7 ac 0.5
Vin in_n GND dc 1.7 ac -0.5

.ic v(out_p)=1.7 v(out_n)=1.7 v(sp)=1.7 v(sn)=1.7 v(ap)=1.7 v(an)=1.7

.control
ac dec 40 0.01 10k
let vdiff = v(out_p)-v(out_n)
let vdb = db(vdiff)
meas ac fc_3db  WHEN vdb=-3
meas ac gpass   FIND vdb AT=0.1
meas ac roll100 FIND vdb AT=100
plot vdb title "LPF 2nd order from schematic"
.endc
.end
